US06469020B2
4-(2-Acetylsulfanyl-1-tert-butoxycarbonyl-ethyl)-piperidine-1-carboxylic Acid Benzyl Ester
Sulfuric acid (1.15 ml) was added slowly to a solution of 4-(2-acetylsulfanyl-1-carboxy-ethyl)-piperidine-1-carboxylic acid benzyl ester (20.32 g) in dichloromethane (60 ml). The mixture was cooled in an acetone/dry ice bath and cooled isobutylene (60 ml) added. The mixture was transferred to a Parr high pressure apparatus and left to stir overnight then washed with water (30 ml), saturated sodium bicarbonate solution (30 ml) and brine (30 ml). After drying (Na2SO4) and filtering the solvent was removed under reduced pressure and the residue purified by column chromatography (SiO2, 20% ethyl acetate in hexane) to give the title compound (11.22 g, 60%) as an orange oil.

reactant | Sulfuric acid | 1.15 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-(2-acetylsulfanyl-1-carboxy-ethyl)-piperidine-1-carboxylic acid benzyl ester | 20.32 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(CSC(C)=O)C(=O)O | C18H23NO5S
reactant | isobutylene | 60 ml | CC(C)=C | C4H8
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 4-(2-Acetylsulfanyl-1-tert-butoxycarbonyl-ethyl)-piperidine-1-carboxylic Acid Benzyl Ester | 11.22 g, 60% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(CSC(C)=O)C(=O)OC(C)(C)C | C22H31NO5S
